US09388174B2
A reaction mixture prepared by suspending 65.2 mg of 3-(1H-imidazol-1-yl)-4-phenoxybenzonitrile in a mixture of 0.3 mL of acetic acid and 1.0 mL of thioacetic acid was heated at 50° C. for 14 hours under a nitrogen atmosphere. A crude product of 3-(1H-imidazol-1-yl)-4-phenoxybenzene-1-carbothioamide was obtained by concentrating under reduced pressure.

reactant | 3-(1H-imidazol-1-yl)-4-phenoxybenzonitrile | 65.2 mg | N1(C=NC=C1)C=1C=C(C#N)C=CC1OC1=CC=CC=C1 | C16H11N3O
reactant | thioacetic acid | 1.0 mL | C(C)(=S)O | C2H4OS
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | 3-(1H-imidazol-1-yl)-4-phenoxybenzene-1-carbothioamide | N1(C=NC=C1)C=1C=C(C=CC1OC1=CC=CC=C1)C(N)=S | C16H13N3OS
